US07790728B2
N-[6-(3,5-Difluoropyridin-2-yl)-5-(3-fluoropyridin-4-yl)pyrazin-2-yl]cyclopropane carboxamide
In a Schienk tube were charged N-[6-chloro-5-(3-fluoropyridin-4-yl)pyrazin-2-yl]cyclopropanecarboxamide (Preparation 10, 70 mg, 0.24 mmol), 3,5-difluoro-2-tributylstannanyl-4-trimethylsilylpyridine (prepared according to the procedure described in J. Med. Chem. 2006, 49(1), 35-38) (177.6 mg, 0.48 mmol), copper(I) iodide (2.28 mg, 12 μmol), lithium chloride (previously dried) (10.14 mg, 0.24 mmol) and dioxane (1.5 mL). The mixture was submitted to three vacuum-argon cycles, then tetrakis(triphenylphosphine)palladium(0) (27.64 mg, 24 μmol) was added and the mixture purged in the same way and the mixture was heated at 100° C. for 18 h. The reaction was concentrated, ethyl acetate (1 ml) and HCl 2N (5 ml) were added and the reaction was stirred at room temperature for 1 h. Ethyl acetate was added, the organic layer was separated, and the aqueous phase was extracted with ethyl acetate. The combined extracts were washed with water and the organic layer was dried over magnesium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography on silica flash, using dichloromethane/methanol (100:1) to yield the title compound (23 mg, 26%) as a yellowish solid.

reactant | N-[6-chloro-5-(3-fluoropyridin-4-yl)pyrazin-2-yl]cyclopropanecarboxamide | 0.24 mmol, 70 mg | ClC1=C(N=CC(=N1)NC(=O)C1CC1)C1=C(C=NC=C1)F | C13H10ClFN4O
reactant | 3,5-difluoro-2-tributylstannanyl-4-trimethylsilylpyridine | FC=1C(=NC=C(C1[Si](C)(C)C)F)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | [Cl-].[Li+]
catalyst | copper(I) iodide | 12 μmol, 2.28 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 24 μmol, 27.64 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | N-[6-(3,5-Difluoropyridin-2-yl)-5-(3-fluoropyridin-4-yl)pyrazin-2-yl]cyclopropane carboxamide | 23 mg, 26% | FC=1C(=NC=C(C1)F)C1=C(N=CC(=N1)NC(=O)C1CC1)C1=C(C=NC=C1)F | C18H12F3N5O
